US04720357
1-3-methoxy 17-oxo estra 3,5-diene 10 g 3, 17-dioxo estra 4-ene in 50 ml methanol are mixed under stirring with 10 ml methyl orthoformate and 50 mg p. toluene sulphonic acid. Few drops of triethylamine are added thereto then the mixture is chilled and the crystalls are separated then dried--3-methoxy 17-oxo estra 3, 5-diene are thus obtained with a yield of 69%.

reactant | methyl orthoformate | 10 ml | C(OC)([O-])[O-]
reactant | toluene sulphonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanol | 50 ml | CO | CH4O
product | 3-methoxy 17-oxo estra 3, 5-diene | yield of 69% | COC1=CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@H]2CC1)=O | C19H26O2
